US04788206
As in Example 115, (2E,4Z)-5-(4-methoxyphenyl)-5-(2-thienyl)-2,4-pentadienoic acid (1.76 g) and 4-nitrophenol (1 g) in 20 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (1.24 g). The mixture was stirred at room temperature for 18 hours then, after the usual work up, the ester was crystallized from 2-propanol to yield 1.45 g of (2E,4Z)-5-(4-methoxyphenyl)-5-(2-thienyl)-2,4-pentadienoic acid 4-nitrophenyl ester, mp 113°-115° C. A sample was recrystallized from 2-propanol to give the analytical specimen, mp 114.5°-115.5° C.

reactant | (2E,4Z)-5-(4-methoxyphenyl)-5-(2-thienyl)-2,4-pentadienoic acid | 1.76 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/C=1SC=CC1 | C16H14O3S
reactant | 4-nitrophenol | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2E,4Z)-5-(4-methoxyphenyl)-5-(2-thienyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 1.45 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/C=1SC=CC1)\C1=CC=C(C=C1)OC)=O | C22H17NO5S
